US08536187B2
To a solution of (R)-1-phenylpropan-1-amine (2.5 g) in dichloromethane at 0° C. was added trifluoroacetic anhydride (3.13 ml), followed by pyridine (4.52 ml) to give a yellow solution. The reaction mixture was stirred at room temperature overnight. The mixture was diluted with EtOAc and washed with 1N HCl, sat. aq. NaHCO3 solution and brine. The organic layer was dried (MgSO4), concentrated and purified by silica gel column chromatography to give 2.55 g (R)-2,2,2-trifluoro-N-(1-phenylpropyl)acetamide as a white solid.

reactant | (R)-1-phenylpropan-1-amine | 2.5 g | C1(=CC=CC=C1)[C@@H](CC)N | C9H13N
reactant | trifluoroacetic anhydride | 3.13 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 4.52 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2,2,2-trifluoro-N-(1-phenylpropyl)acetamide | 2.55 g | FC(C(=O)N[C@H](CC)C1=CC=CC=C1)(F)F | C11H12F3NO
